US05064833
4-(N-Methylphenylamino)-2-(2-methyl-4-fluorophenylamino)-6-methoxyquinazoline
2-Chloro-4-(N-methylphenylamino)-6-methoxyquinazoline (5.4 g, 0.02M) and 4-fluoro-2-methylaniline (4.96 g, 0.04M) were dissolved in ethanol (50 ml) and heated at 140° for 5 hours in a Berghof pressure reactor. The mixture was cooled and ethereal/HCl added. The precipitated solid was filtered off and recrystallised (isopropanol/ether followed by isopropanol) to yield the title compound (3.8 g) m.p. 248°-250°.

reactant | 2-Chloro-4-(N-methylphenylamino)-6-methoxyquinazoline | 0.02M, 5.4 g | ClC1=NC2=CC=C(C=C2C(=N1)N(C)C1=CC=CC=C1)OC | C16H14ClN3O
reactant | 4-fluoro-2-methylaniline | 0.04M, 4.96 g | FC1=CC(=C(N)C=C1)C | C7H8FN
reactant | HCl | Cl | ClH
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 4-(N-Methylphenylamino)-2-(2-methyl-4-fluorophenylamino)-6-methoxyquinazoline | 3.8 g | CN(C1=NC(=NC2=CC=C(C=C12)OC)NC1=C(C=C(C=C1)F)C)C1=CC=CC=C1 | C23H21FN4O
